US08957066B2
(E)-ethyl 3-(1-cinnamyl-1H-pyrazol-4-yl)acrylate
Cesium carbonate (0.490 g, 1.5 mmol) was added to a solution of (E)-ethyl 3-(1H-pyrazol-4-yl)acrylate (0.167 g, 1 mmol) in ACN (8 mL) at room temperature. The suspension was stirred and 1-((E)-3-bromoprop-1-enyl)benzene (0.256 g, 1.30 mmol) was added. The mixture was heated at 40° C. overnight. After cooling down to room temperature, the precipitated solids were filtered off. The filtrate was concentrated and purified by silica gel column chromatography using a 0-60% gradient of EtOAc in hexanes to provide the title compound as a colorless oil (0.214 g, 76%). ES+(M+H)+283

reactant | Cesium carbonate | 1.5 mmol, 0.490 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (E)-ethyl 3-(1H-pyrazol-4-yl)acrylate | 1 mmol, 0.167 g | N1N=CC(=C1)/C=C/C(=O)OCC | C8H10N2O2
reactant | 1-((E)-3-bromoprop-1-enyl)benzene | 1.30 mmol, 0.256 g | BrC/C=C/C1=CC=CC=C1 | C9H9Br
solvent | ACN | 8 mL | C(C)#N | C2H3N
product | (E)-ethyl 3-(1-cinnamyl-1H-pyrazol-4-yl)acrylate | 0.214 g, 76% | C(C=CC1=CC=CC=C1)N1N=CC(=C1)/C=C/C(=O)OCC | C17H18N2O2
